US08349849B2
To a solution of crude 2-amino-2-(7-(heptyloxy)quinolin-3-yl)propanoic acid (600 mg, 1.8 mmol) in dry THF (30 mL) was added LAH (138 mg, 3.6 mmol, 2 eq.) at 0° C. under N2. Then, the mixture was warmed to room temperature for 3 h. Then the reaction mixture was added water (1 mL), diluted (EA), filtered and dried (Na2SO4), evaporated to dryness to give the crude product, which was purified by prep-HPLC to give 2-amino-2-(7-(heptyloxy)quinolin-3-yl)propan-1-ol as white solid (200 mg, yield 35%). ESI-MS: 317 (M+H)+.

reactant | 2-amino-2-(7-(heptyloxy)quinolin-3-yl)propanoic acid | 1.8 mmol, 600 mg | NC(C(=O)O)(C)C=1C=NC2=CC(=CC=C2C1)OCCCCCCC | C19H26N2O3
reactant | LAH | 3.6 mmol, 138 mg, 2 eq. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 1 mL | O | H2O
reactant | EA | CC(OCC)=O | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-amino-2-(7-(heptyloxy)quinolin-3-yl)propan-1-ol | 200 mg, yield 35% | NC(CO)(C)C=1C=NC2=CC(=CC=C2C1)OCCCCCCC | C19H28N2O2
